US05246951
6-Nicotinoylbenzoselenazolinone
9.9 ml (0.13 mol) of dimethylformamide are introduced dropwise and with stirring into a 250-ml flask containing 61.3 g (0.46 mol) of aluminum chloride, and the flask is fitted with a reflux condenser and heated in an oil bath to a temperature in the region of 45° C. 7.9 g (0.04 mol) of benzoselenazolinone and 10.6 g (0.06 mol) of nicotinoyl chloride hydrochloride are introduced.

reactant | dimethylformamide | 0.13 mol, 9.9 ml | CN(C=O)C | C3H7NO
reactant | aluminum chloride | 0.46 mol, 61.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoselenazolinone | 0.04 mol, 7.9 g | [Se]1(C=NC2=C1C=CC=C2)=O | C7H5NOSe
reactant | nicotinoyl chloride hydrochloride | 0.06 mol, 10.6 g | Cl.C(C1=CN=CC=C1)(=O)Cl
product | 6-Nicotinoylbenzoselenazolinone | C(C1=CN=CC=C1)(=O)C1=CC2=C(N=C[Se]2=O)C=C1 | C13H8N2O2Se
